US05354794
2,4-Bis-(2,4-dihydroxyphenyl)-6-[4-(phenylthio)phenyl]-s-triazine
To a 500 mL round bottomed flask equipped with a magnetic stirrer, condenser, Dean-Stark trap and nitrogen atmosphere are charged 16.1 g (0.0394 mol) of 6-(p-chlorophenyl)-2,4-bis-(2,4-dihydroxyphenyl)-s-triazine, 2.72 g (0.0197 mol) of potassium carbonate, 600 mg of potassium iodide and 150 mL of N,N-dimethylformamide. A pre-heated oil bath (150° C.) is then applied to the stirred brown solution. Thiophenol (4.04 mL, 0.00394 mol) is added all at once through a syringe. The mixture is stirred at 150° C. for 4.5 hours and then allowed to cool to room temperature. The solution is diluted with water and extracted thrice with ethyl acetate. The combined organic layers are washed twice with 0.1N hydrochloric acid and then dried over anhydrous magnesium sulfate. The solvent is then removed under reduced pressure to give a yellow product. There is some unsolubilized material found at the interface in the ethyl acetate extractions of the reaction mixture which is washed with water and triturated with heptane. Both crops of yellow solid are the title compound and are combined to afford the title compound in a yield of 17.5 g (92%); mp>250°.

reactant | 6-(p-chlorophenyl)-2,4-bis-(2,4-dihydroxyphenyl)-s-triazine | 0.0394 mol, 16.1 g | ClC1=CC=C(C=C1)C1=NC(=NC(=N1)C1=C(C=C(C=C1)O)O)C1=C(C=C(C=C1)O)O | C21H14ClN3O4
reactant | potassium carbonate | 0.0197 mol, 2.72 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 600 mg | [I-].[K+]
reactant | Thiophenol | 0.00394 mol, 4.04 mL | C1(=CC=CC=C1)S | C6H6S
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
product | 2,4-Bis-(2,4-dihydroxyphenyl)-6-[4-(phenylthio)phenyl]-s-triazine | OC1=C(C=CC(=C1)O)C1=NC(=NC(=N1)C1=C(C=C(C=C1)O)O)C1=CC=C(C=C1)SC1=CC=CC=C1 | C27H19N3O4S
